US04565869
A solution of 2.7 g (0.041 mol) of imidazole in 50 ml of dry tetrahydrofuran is treated at 0° C. with 1.8 g (0.041 mol) of 55 to 60 percent sodium hydride. After the hydrogen formation has finished, 3.8 g (0.041 mol) of methyl chloroformate in 20 ml of dry tetrahydrofuran are added dropwise at 0° C., whereupon the suspension obtained is treated dropwise at 0° with a solution of 2.9 g (0.021 mol) of 6-chloro-2,4-diaminopyrimidine and 4.5 g (0.041 mol) of potassium t-butylate in 30 ml of dry dimethylformamide. The mixture is stirred at 0° for 1 hour and then at 50° for 3 hours, whereupon 3 ml of methanol are added thereto and the solvent is evaporated to the largest extent possible. The residue is poured into ice-cold water, adjusted with 1N hydrochloric acid to pH 2 and extracted with methylene chloride and a small amount of methanol. After drying the organic extract over magnesium sulphate and evaporation under vacuum, the residue is recrystallized from ethyl acetate, there being obtained pure dimethyl 6-chloro-2,4-pyrimidinedicarbamate.

reactant | imidazole | 0.041 mol, 2.7 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.041 mol, 1.8 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl chloroformate | 0.041 mol, 3.8 g | ClC(=O)OC | C2H3ClO2
reactant | 6-chloro-2,4-diaminopyrimidine | 0.021 mol, 2.9 g | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | methanol | 3 ml | CO | CH4O
product | dimethyl 6-chloro-2,4-pyrimidinedicarbamate | ClC1=CC(=NC(=N1)NC(=O)OC)NC(=O)OC | C8H9ClN4O4
